US07772226B2
(c) 3-(2-Butynyl)-2-chloro-5-methyl-3,5-dihydroimidazo[4,5-d]pyridazin-4-one
7.72 g of 2-chloro-5 methyl-1,5-dihydroimidazo[4,5-d]-pyridazin-4-one was suspended in 400 ml of tetrahydrofuran under a nitrogen atmosphere, and 14.22 g of triphenylphosphine and 3.85 g of 2-butyn-1-ol were added thereto. The resulting mixture was cooled to 0° C. A 100-ml tetrahydrofuran solution containing 12.55 g of azodicarboxylic acid di-t-butyl ester was added dropwise, and the reaction mixture was stirred for three hours. The reaction mixture was concentrated under reduced pressure. 50 ml of dichloromethane and 50 ml of trifluoroacetic acid were added to the residue, and the mixture was stirred for 15 hours. The reaction mixture was concentrated under reduced pressure. The resulting residue was dissolved in 400 ml of ethyl acetate, and washed with a 200 ml of a 5N aqueous sodium hydroxide solution. The aqueous layer was extracted with 100 ml of ethyl acetate. The organic layers were combined together, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography. Thus, 8.78 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (4:1).

reactant | 2-chloro-5 methyl-1,5-dihydroimidazo[4,5-d]-pyridazin-4-one | 7.72 g | ClC1=NC2=C(C=NN(C2=O)C)N1 | C6H5ClN4O
reactant | triphenylphosphine | 14.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-butyn-1-ol | 3.85 g | C(C#CC)O | C4H6O
reactant | azodicarboxylic acid di-t-butyl ester | 12.55 g | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100-ml | O1CCCC1 | C4H8O
product | 3-(2-Butynyl)-2-chloro-5-methyl-3,5-dihydroimidazo[4,5-d]pyridazin-4-one | 8.78 g | C(C#CC)N1C(=NC=2C=NN(C(C21)=O)C)Cl | C10H9ClN4O
